US07265149B2
In analogy to the procedure described for example 1 a], 2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazole-3-carboxylic acid ethyl ester was reduced with lithium aluminium hydride to give [2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol as white crystals.

reactant | 2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)C | C14H13F3N2O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol | CN1N=C(C=C1CO)C1=CC=C(C=C1)OC(F)(F)F | C12H11F3N2O2
